US07179809B2
2-bromo-3-(2-butyn-1-yl)-5-[(4-methyl-quinazolin-2-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
A mixture of 365 mg 2-bromo-3-(2-butyn-1-yl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one, 265 mg 2-chloromethyl-4-methyl-quinazoline and 210 mg potassium carbonate in 6 ml acetonitrile is stirred for 17 h at ambient temperature. Then the reaction mixture is filtered through 5 g aluminium oxide with ethyl acetate and the filtrate is evaporated down. The residue is triturated in diisopropylether, separated from the ether and dried.

reactant | 2-bromo-3-(2-butyn-1-yl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 365 mg | BrC=1N(C2=C(C=NNC2=O)N1)CC#CC | C9H7BrN4O
reactant | 2-chloromethyl-4-methyl-quinazoline | 265 mg | ClCC1=NC2=CC=CC=C2C(=N1)C | C10H9ClN2
reactant | potassium carbonate | 210 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 2-bromo-3-(2-butyn-1-yl)-5-[(4-methyl-quinazolin-2-yl)methyl]-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | BrC=1N(C2=C(C=NN(C2=O)CC2=NC3=CC=CC=C3C(=N2)C)N1)CC#CC | C19H15BrN6O
